US05736548
Sodium spheres (207 mg) was dissolved in ethanol (15 ml) and 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide (1 g, 45 mmol) was added, followed by ethyl 2-(2-propenyloxy)benzoate (1.85 g, 9 mmol). The reaction mixture was refluxed overnight, cooled, the ethanol was stripped and water was added. The pH was adjusted to about 7 and a solid was isolated by filtration. The solid was taken up in ether, washed with dilute HCl, dried over MgSO4, filtered and the solvent was removed and the solid residue was recrystallized from ether to afford 0.56 g of 1-cyclopentyl-3-ethyl-6-[2-(CH2 =CH--CH2 O)phenyl]pyrazolo[3,4-d]pyrimidin-4-one, m.p. 119°-120° C.

reactant | Sodium | [Na] | Na
reactant | 1-cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide | 45 mmol, 1 g | C1(CCCC1)N1N=C(C(=C1N)C(=O)N)CC | C11H18N4O
reactant | ethyl 2-(2-propenyloxy)benzoate | 9 mmol, 1.85 g | C(C=C)OC1=C(C(=O)OCC)C=CC=C1 | C12H14O3
reactant | water | O | H2O
solvent | ethanol | 15 ml | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | pyrazolo[3,4-d]pyrimidin-4-one | N1=NC=C2C1=NC=NC2=O | C5H2N4O
